US07576094B2
To a solution of potassium dichromate (20 g) in water (278 mL) was added a solution (60° C.) of 2,6-diethylaniline (15.5 mL) and conc. sulfuric acid (27.8 mL) in water (580 mL). The solution was stirred for 1 hour and then extracted with ethyl acetate. After removing the solvent, the residue was dissolved in acetone (150 mL) and refluxed with water (150 mL) and conc. sulfuric acid (5 mL) for 3 hours. The acetone was removed and the mixture was extracted with ethyl acetate. Evaporation and a quick flash column (silica gel, ethyl acetate-hexane 0% to 5%) gave a residue that was dissolved in ethyl acetate and shaken with an excess of aqueous sodium hydrosulfite. Evaporation gave 3 g of 2,6-diethylbenzene-1,4-diol that was combined with acetyl chloride (13 mL, 14.18 g) in toluene (100 mL) and refluxed for 3 hours. The solvent and the excess reagent were removed under vacuum. The residue was heated up to 110° C. with boron trifluoride-acetic acid complex (14 mL) for 48 hours. Work up and chromatography (silica gel, hexane-ethyl acetate 2% to 10%) gave 4 g of 3-acetyl-2,6-diethyl-4-hydroxyphenyl acetate.

reactant | potassium dichromate | 20 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[K+].[K+]
reactant | 2,6-diethylaniline | 15.5 mL | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | sulfuric acid | 27.8 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 278 mL | O | H2O
reactant | water | 580 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6-diethylbenzene-1,4-diol | 3 g | C(C)C1=C(C(=CC(=C1)O)CC)O | C10H14O2
